US04029787
3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-methylester
40 Grams of 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride (0.1 mole) were heated for 2 hours under reflux in 1 l of methanol. Subsequently the methanol was distilled off and the residue was dissolved in 0.3 l of water. A small amount of undissolved amorphous material was removed by filtration and the pH value of the filtrate was adjusted to 8 by means of concentrated aqueous ammonia, whereupon the final product precipitated immediately in a crystalline state. After it had been washed with water, it was dried on the steam bath.

reactant | 3-dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoylchloride-hydrochloride | 0.1 mole | Cl.CN(S(=O)(=O)C=1C=C(C(=O)Cl)C=CC1N1CCN(CC1)C)C
reactant | methanol | 1 l | CO | CH4O
product | 3-Dimethylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-methylester | COC(C1=CC(=C(C=C1)N1CCN(CC1)C)S(N(C)C)(=O)=O)=O | C15H23N3O4S
